US06969765B2
Purpurin 5 dimethyl ester is dissolved in acetone and concentrated hydrochloric acid (37%) is added in the ratio 1:2. The mixture is stirred for 2 hours at 25° C., neutralised, purpurin 5 is filtered out, washed with water, dissolved in 10 % N-methyl-D-glucamine solution and gel filtrated on a Sephadex G10 column with the use of 1% N-methyl-D-glucamine solution as an eluent, the second fraction is collected, neutralised, a precipitate is filtered out, washed with water, dried over phosphorus pentoxide till the weight becomes constant to give purpurin 5 (5.2% calculating to the dry reaction mass taken for esterification).

reactant | Purpurin 5 dimethyl ester | CCC1=C2C=C3C(=C(C(=N3)C(=C4[C@H]([C@@H](C(=N4)C=C5C(=C(C(=CC(=C1C)N2)N5)C=C)C)C)CCC(=O)OC)C=O)C(=O)OC)C | C35H38N4O5
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | purpurin 5 | CCC1=C2C=C3C(=C(C(=N3)C(=C4[C@H]([C@@H](C(=N4)C=C5C(=C(C(=CC(=C1C)N2)N5)C=C)C)C)CCC(=O)O)C=O)C(=O)O)C | C33H34N4O5
